US03979384
A solution of benzhydryl 3-diazomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate (9.0 × 10-4 mole), prepared by the process described in Example 2, and ethanethiol (5 ml.) is stirred at room temperature for 15 minutes. The excess ethanethiol is removed in vacuo and the residue chromatographed over silica gel with chloroform:acetone (10:1) to give benzhydryl 3-ethylthiomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate.

reactant | benzhydryl 3-diazomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate | 9.0 × 10-4 mole | [N+](=[N-])=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H22N4O4S2
reactant | ethanethiol | 5 ml | C(C)S | C2H6S
product | benzhydryl 3-ethylthiomethyl-7β-(2-thienylacetamido)-ceph-3-em-4-carboxylate | C(C)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C29H28N2O4S3
